US04188390
4-Amino-2-chloro-6,7-dimethoxyquinazoline (1.58 g.) and N-(1,4-benzodioxan-2-carbonyl)homopiperazine (2.0 g.) were heated under reflux in n-butanol (114 ml.) for 60 hours. The mixture was then cooled, butanol removed in vacuo and the solid residue triturated with ether, taken up in hot methanol, filtered and cooled. The solid product was collected, then the residual solution was evaporated in vacuo and the residue taken up in hot isopropanol, cooled, filtered, then re-evaporated in vacuo. The residue was combined with the original solid product, treated with cold methanol, and recrystallized from ethanol to give 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)homopiperazin-1-yl]-6,7-dimethoxyquinazoline hydrochloride (0.57 g.), m.p. 250°-251° C.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 1.58 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | N-(1,4-benzodioxan-2-carbonyl)homopiperazine | 2.0 g | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCCC2 | C14H18N2O3
solvent | n-butanol | 114 ml | C(CCC)O | C4H10O
product | 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)homopiperazin-1-yl]-6,7-dimethoxyquinazoline hydrochloride | 0.57 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CCC1)C(=O)C1COC2=C(O1)C=CC=C2 | InChI=1S/C24H27N5O5.ClH/c1-31-19-12-15-16(13-20(19)32-2)26-24(27-22(15)25)29-9-5-8-28(10-11-29)23(30)21-14-33-17-6-3-4-7-18(17)34-21;/h3-4,6-7,12-13,21H,5,8-11,14H2,1-2H3,(H2,25,26,27);1H
